*
*  DIGITAL WAVEFORM VIEWERS
*
.SUBCKT DVIEW10 in1 out1 in2 out2 in3 out3 in4 out4 in5 out5 
+ in6 out6 in7 out7 in8 out8 in9 out9 in10 out10 offs1={offset} gain1={gain}
Voffs1 base1 0 DC {offs1+9} 
Voffs2 base2 base1 DC -1
Voffs3 base3 base2 DC -1
Voffs4 base4 base3 DC -1
Voffs5 base5 base4 DC -1
Voffs6 base6 base5 DC -1
Voffs7 base7 base6 DC -1
Voffs8 base8 base7 DC -1
Voffs9 base9 base8 DC -1
Voffs10 base10 base9 DC -1
E1 out1 base1 in1 0 {gain1}
E2 out2 base2 in2 0 {gain1}
E3 out3 base3 in3 0 {gain1}
E4 out4 base4 in4 0 {gain1}
E5 out5 base5 in5 0 {gain1}
E6 out6 base6 in6 0 {gain1}
E7 out7 base7 in7 0 {gain1}
E8 out8 base8 in8 0 {gain1}
E9 out9 base9 in9 0 {gain1}
E10 out10 base10 in10 0 {gain1}
R1 in1 0 1e8
R2 in2 0 1e8
R3 in3 0 1e8
R4 in4 0 1e8
R5 in5 0 1e8
R6 in6 0 1e8
R7 in7 0 1e8
R8 in8 0 1e8
R9 in9 0 1e8
R10 in10 0 1e8
.ends
*
*
.SUBCKT DVIEW5 in1 out1 in2 out2 in3 out3 in4 out4 in5 out5  offs1={offset} gain1={gain}
Voffs1 base1 0 DC {offs1+4} 
Voffs2 base2 base1 DC -1
Voffs3 base3 base2 DC -1
Voffs4 base4 base3 DC -1
Voffs5 base5 base4 DC -1
E1 out1 base1 in1 0 {gain1}
E2 out2 base2 in2 0 {gain1}
E3 out3 base3 in3 0 {gain1}
E4 out4 base4 in4 0 {gain1}
E5 out5 base5 in5 0 {gain1}
R1 in1 0 1e8
R2 in2 0 1e8
R3 in3 0 1e8
R4 in4 0 1e8
R5 in5 0 1e8
.ends
*